* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=5.72762522568e-12
.param C2=1.24438312536e-09
.param Csh=5.88007609504e-11
.param L1=3.03348170672e-06
.param Vsrc_amp=302.436950753
.param ne=1.43645199083e+15
.param nu_m=97195190.7094

* Sources
Vsrc src 0 SIN(0 302.436950753 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 7.49028032999
Lbulk nb ns 7.70643102331e-08
Csh ns n 5.88007609504e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
